### PR TITLE
feat(Analysis/ODE): uniqueness of integral curves on intervals and intersections

### PR DESCRIPTION
**Pull request by michaellee94**
Adds some uniqueness lemmas for integral curves of a Lipschitz vector field, proved via Grönwall's inequality. Split out from #26413 (existence of maximal solutions).

### CODE REVIEW

File: Mathlib/Analysis/ODE/ExistUnique.lean [hunk 1]
```diff
@@ -349,3 +349,90 @@ theorem ODE_solution_unique_univ
...
+    (hg : ContinuousOn g (Icc a b)) (hg' : IsIntegralCurveOn g v (Ico a b))
+    (hgs : ∀ t ∈ Ico a b, g t ∈ s t) (ha : f a = g a) :
+    EqOn f g (Icc a b) := fun t ht ↦ by
+  have := dist_le_of_trajectories_ODE_of_mem hv hf
+    (fun t ht ↦ (hf' t ht).mono_of_mem_nhdsWithin (Ico_mem_nhdsGE_of_mem ht)) hfs hg
+    (fun t ht ↦ (hg' t ht).mono_of_mem_nhdsWithin (Ico_mem_nhdsGE_of_mem ht)) hgs
+    (dist_le_zero.2 ha) t ht
+  rwa [zero_mul, dist_le_zero] at this
+
+/-- A time-reversed version of `IsIntegralCurveOn.eqOn_Icc_right`. Uniqueness is shown in a
```
Comment (sgouezel) [inline Mathlib/Analysis/ODE/ExistUnique.lean]: Could you first say what the lemma is proving, and only then mention that it is a time-reversed version of the other lemma? The reason is that users will typically hover the lemma name in another file where it is used, so they won't have the context of the current file.

Comment (michaellee94) [reply Mathlib/Analysis/ODE/ExistUnique.lean]: Done

File: Mathlib/Analysis/ODE/ExistUnique.lean [hunk 2]
```diff
@@ -349,3 +349,94 @@ theorem ODE_solution_unique_univ
...
+
+This version shows uniqueness in a closed interval `Icc a b`, where `a` is the initial time. -/
+theorem IsIntegralCurveOn.eqOn_Icc_right
+    (hv : ∀ t ∈ Ico a b, LipschitzOnWith K (v t) (s t))
+    (hf : ContinuousOn f (Icc a b)) (hf' : IsIntegralCurveOn f v (Ico a b))
+    (hfs : ∀ t ∈ Ico a b, f t ∈ s t)
+    (hg : ContinuousOn g (Icc a b)) (hg' : IsIntegralCurveOn g v (Ico a b))
+    (hgs : ∀ t ∈ Ico a b, g t ∈ s t) (ha : f a = g a) :
+    EqOn f g (Icc a b) := fun t ht ↦ by
+  have := dist_le_of_trajectories_ODE_of_mem hv hf
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/ExistUnique.lean:365]: Can you use `ODE_solution_unique_of_mem_Icc_right` to deduce this, instead of deduplicating the proof?

File: Mathlib/Analysis/ODE/ExistUnique.lean [hunk 3]
```diff
@@ -349,3 +349,94 @@ theorem ODE_solution_unique_univ
...
+    (dist_le_zero.2 ha) t ht
+  rwa [zero_mul, dist_le_zero] at this
+
+/-- There exists only one solution of an ODE $\dot x=v(t, x)$ in a set `s ⊆ ℝ × E` with
+a given initial value provided that the RHS is Lipschitz continuous in `x` within `s`,
+and we consider only solutions included in `s`.
+
+This version shows uniqueness in a closed interval `Icc a b`, where `b` is the "initial" time.
+It is a time-reversed version of `IsIntegralCurveOn.eqOn_Icc_right`. -/
+theorem IsIntegralCurveOn.eqOn_Icc_left
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/ExistUnique.lean:377]: Same question here: deduplicating almost 30 lines of proof is not great.

File: Mathlib/Analysis/ODE/ExistUnique.lean [hunk 4]
```diff
@@ -349,3 +349,94 @@ theorem ODE_solution_unique_univ
...
+    (hI : IsPreconnected I) (hJ : IsPreconnected J) (htI : t₀ ∈ I) (htJ : t₀ ∈ J)
+    (hf : IsIntegralCurveOn f v I) (hfs : ∀ t ∈ I ∩ J, f t ∈ s t)
+    (hg : IsIntegralCurveOn g v J) (hgs : ∀ t ∈ I ∩ J, g t ∈ s t)
+    (heq : f t₀ = g t₀) :
+    EqOn f g (I ∩ J) := by
+  have hoc := hI.ordConnected.inter hJ.ordConnected
+  intro t ⟨htI', htJ'⟩
+  rcases lt_or_ge t t₀ with h | h
+  · have hss : Icc t t₀ ⊆ I ∩ J := hoc.out ⟨htI', htJ'⟩ ⟨htI, htJ⟩
+    exact eqOn_Icc_left
```
Comment (grunweg) [inline Mathlib/Analysis/ODE/ExistUnique.lean:424]: or even: do we need the previous two lemmas, or can we instead just appeal to `IsIntegralCurveOn.eqOn_Icc_left` and `IsIntegralCurveOn.eqOn_Icc_right` instead?

**Review by grunweg — COMMENTED** [review]
Hi! Sorry that you had to wait for so long; it seems most differential geometry maintainers (myself included) really have too many other obligations.

I will need something like your PR (but in the manifold case), hence was looking at your PR again. The amount of code needed for what is mathematically not interesting is a bit sad; we should find a way to avoid this (but this is perhaps out of scope for your PR!).

I wondered, however: why is this reproving something we basically already have earlier in the file? See below.
